US08802697B2
To a stirred solution of imidazo[1,2-a]pyridine-8-carbonitrile (1.2 g, 8.38 mmol) in dichloromethane (10 mL) was added N-iodosuccinimide (1.89 g, 8.38 mmol). LCMS monitored the reaction until the starting material consumed completely. The reaction mixture was diluted with dichloromethane and water. The separated organic layer was dried sodium sulfate, filtered and concentrated to give 3-iodoimidazo[1,2-a]pyridine-8-carbonitrile (1.8 g, 6.69 mmol, 80% yield) as a brown solid. MS (ES+) C8H81N3 requires: 269. found: 270 [M+H]+.

reactant | imidazo[1,2-a]pyridine-8-carbonitrile | 8.38 mmol, 1.2 g | N=1C=CN2C1C(=CC=C2)C#N | C8H5N3
reactant | N-iodosuccinimide | 8.38 mmol, 1.89 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-iodoimidazo[1,2-a]pyridine-8-carbonitrile | 6.69 mmol, 1.8 g, 80% yield | IC1=CN=C2N1C=CC=C2C#N | C8H4IN3
